US04281132
1-(4-[3-(4-Fluorobenzoyl)ureido]piperid-1-yl)-3-(2-methoxyphenoxy)propan-2-ol
2-(2,3-Epoxypropoxy)anisole (0.99 g, 0.0055 m) and 1-(4-fluorobenzoyl)-3-(piperid-4-yl)urea (1.32 g, 0.005 m) in isopropyl alcohol (50 cm3) were refluxed for 24 hours. The solution was cooled and the product which crystallised was filtered off. This was dissolved in ethanol and acidified with ethanolic hydrogen chloride. The solution was heated on a water bath and ethyl acetate was added to replace the lost solvent. The product crystallised out and was recrystallised twice from ethanol giving the title compound as the hydrochloride, hemihydrate (0.44 g) m.p. 194°-195° C.

reactant | 2-(2,3-Epoxypropoxy)anisole | 0.99 g | O1C(COC2=C(C=CC=C2)OC)C1 | C10H12O3
reactant | 1-(4-fluorobenzoyl)-3-(piperid-4-yl)urea | 1.32 g | FC1=CC=C(C(=O)NC(=O)NC2CCNCC2)C=C1 | C13H16FN3O2
solvent | isopropyl alcohol | 50 cm3 | C(C)(C)O | C3H8O
product | 1-(4-[3-(4-Fluorobenzoyl)ureido]piperid-1-yl)-3-(2-methoxyphenoxy)propan-2-ol | FC1=CC=C(C(=O)NC(NC2CCN(CC2)CC(COC2=C(C=CC=C2)OC)O)=O)C=C1 | C23H28FN3O5
